US07718645B2
{Trans-4-[4-(4-amino-5-oxo-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-6(5H)-yl)phenyl]cyclohexyl}Acetic Acid
A stirred solution of methyl {trans-4-[4-(4-amino-5-oxo-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-6-(5H)-yl)phenyl]cyclohexyl}acetate (5.05 g, 12.3 mmol), from Example 1, and 1N aqueous lithium hydroxide (36.9 mL) in p-dioxane (96 mL) and water (27 mL) was stirred at 50° C. for one hour. After cooling, the reaction solution was adjusted to pH˜3.5 with 6N aqueous hydrochloric acid and the mixture was concentrated to near dryness. This residue was slurried in water (40 mL) for 1 hour, filtered, the solids washed with water (2×20 mL), ether (3×30 mL) and dried in vacuo to afford the title compound as an off-white solid, 4.58 g. 1H NMR (400 MHz, DMSO-d6): δ 8.12 (s, 1H), 7.58 (br s, 2H) 7.21 (s, 4H), 4.56 (m, 2H), 3.92 (m, 2H), 2.42 (m, 1H), 2.08 (m, 2H), 1.75 (m, 5H), 1.42 (q, 2H), 1.05 (q, 2H). m/z=397.3 (M+1). IC50 19.1 nM (range 5.2-63.6 nM).

reactant | methyl {trans-4-[4-(4-amino-5-oxo-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-6-(5H)-yl)phenyl]cyclohexyl}acetate | 12.3 mmol, 5.05 g | NC1=NC=NC2=C1C(N(CCO2)C2=CC=C(C=C2)[C@@H]2CC[C@H](CC2)CC(=O)OC)=O | C22H26N4O4
reactant | lithium hydroxide | 1N, 36.9 mL | [OH-].[Li+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | p-dioxane | 96 mL | O1CCOCC1 | C4H8O2
solvent | water | 27 mL | O | H2O
product | {Trans-4-[4-(4-amino-5-oxo-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-6(5H)-yl)phenyl]cyclohexyl}Acetic Acid | NC1=NC=NC2=C1C(N(CCO2)C2=CC=C(C=C2)[C@@H]2CC[C@H](CC2)CC(=O)O)=O | C21H24N4O4
